US08729079B2
h: Methyl 4-(5-oxo-4-(4-(piperazin-1-ylmethyl)phenylamino)-5,6-dihydropyrimido[4,5-d]pyridazin-2-yl)benzoate hydrochloride
Tert-butyl 4-(4-(2-(4-(methoxycarbonyl)phenyl)-5-oxo-5,6-dihydropyrimido[4,5-d]pyridazin-4-ylamino)benzyl)piperazine-1-carboxylate (0.1 g, 0.175 mmol) was dissolved in dioxane.HCl (5 mL) and stirred at room temperature for 1.5 hours. The solid obtained was filtered and the residue washed with EtOAc and dried to give the desired product (40 mg).

reactant | Tert-butyl 4-(4-(2-(4-(methoxycarbonyl)phenyl)-5-oxo-5,6-dihydropyrimido[4,5-d]pyridazin-4-ylamino)benzyl)piperazine-1-carboxylate | 0.175 mmol, 0.1 g | COC(=O)C1=CC=C(C=C1)C=1N=C(C2=C(C=NNC2=O)N1)NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C30H33N7O5
reactant | HCl | 5 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl 4-(5-oxo-4-(4-(piperazin-1-ylmethyl)phenylamino)-5,6-dihydropyrimido[4,5-d]pyridazin-2-yl)benzoate hydrochloride | 40 mg | Cl.O=C1C2=C(C=NN1)N=C(N=C2NC2=CC=C(C=C2)CN2CCNCC2)C2=CC=C(C(=O)OC)C=C2 | InChI=1S/C25H25N7O3.ClH/c1-35-25(34)18-6-4-17(5-7-18)22-29-20-14-27-31-24(33)21(20)23(30-22)28-19-8-2-16(3-9-19)15-32-12-10-26-11-13-32;/h2-9,14,26H,10-13,15H2,1H3,(H,31,33)(H,28,29,30);1H
